US04602027
A mixture of ethyl 2-cinnamoylaminoacetoacetate (5.7 g) and phosphorus oxychloride (40 ml) was heated on an oil bath at 100°-110° C. for 30 minutes and the phosphorus oxychloride was distilled off under reduced pressure. The residue was neutralized with aqueous sodium hydrogen carbonate and extracted with chloroform. The chloroform layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off and the residue was treated with hexane to give ethyl 5-methyl-2-styryl-4-oxazolecarboxylate as crystals; yield 4.3 g (80.7%). Recrystallization from ethanol gave light-yellow prisms melting at 98°-99° C.

reactant | ethyl 2-cinnamoylaminoacetoacetate | 5.7 g | C(C=CC1=CC=CC=C1)(=O)NC(C(=O)OCC)C(=O)C | C15H17NO4
solvent | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 5-methyl-2-styryl-4-oxazolecarboxylate | CC1=C(N=C(O1)C=CC1=CC=CC=C1)C(=O)OCC | C15H15NO3
